US09382222B2
A solution of 4-isobutylsulfamoyl-benzyl-phosphonium bromide (1.87 g, 3.29 mmol) in DMF (10 mL) was treated with NaH (60% dispersion in mineral oil, 329 mg, 8.22 mmol) and stirred at room temperature for 1 hour. 1-(Methylsulfonyl)piperidin-4-one (758 mg, 4.28 mmol) was added and the mixture stirred at room temperature for 18 hours. The mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-100% EtOAc in cyclohexane) gave N-isobutyl-4-(1-methanesulfonyl-piperidin-4-ylidenemethyl)-benzenesulfonamide (392 mg, 31%). 1H NMR (300 MHz, CDCl3) δ 7.81 (d, J=8.2 Hz, 2H), 7.31 (d, J=8.2 Hz, 2H), 6.43 (s, 1H), 4.40 (t, J=6.5 Hz, 1H), 3.37 (t, J=5.7 Hz, 2H), 3.25 (t, J=5.8 Hz, 2H), 2.82-2.76 (m, 5H), 2.60 (t, J=5.7 Hz, 2H), 2.53 (t, J=5.7 Hz, 2H), 1.80-1.66 (m, 1H), 0.88 (d, J=6.7 Hz, 6H). LCMS (m/z, Method A) ES+ 523.1 [M+Na]+.

reactant | 4-isobutylsulfamoyl-benzyl-phosphonium bromide | 3.29 mmol, 1.87 g | [Br-].C(C(C)C)NS(=O)(=O)C1=CC=C(C[PH3+])C=C1
reactant | NaH | 8.22 mmol, 329 mg | [H-].[Na+]
reactant | 1-(Methylsulfonyl)piperidin-4-one | 4.28 mmol, 758 mg | CS(=O)(=O)N1CCC(CC1)=O | C6H11NO3S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-isobutyl-4-(1-methanesulfonyl-piperidin-4-ylidenemethyl)-benzenesulfonamide | 392 mg, 31% | C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C=C1CCN(CC1)S(=O)(=O)C | C17H26N2O4S2
